US06638321B1
Synthesis of 3-[2-(2,5-Diaminophenyl)ethyl]-1-methyl-3H-imidazol-1-ium Chloride Dihydrochloride
The 3-[2-(2,5-bis(acetylamino)phenyl)ethyl]-1-methyl-3H-imidazol-1-ium gum obtained was then refluxed for 6 hours in 100 ml of aqueous 36% hydrochloric acid.

reactant | 3-[2-(2,5-bis(acetylamino)phenyl)ethyl]-1-methyl-3H-imidazol-1-ium | C(C)(=O)NC1=C(C=C(C=C1)NC(C)=O)CCN1C=[N+](C=C1)C
reactant | hydrochloric acid | Cl | ClH
product | 3-[2-(2,5-Diaminophenyl)ethyl]-1-methyl-3H-imidazol-1-ium Chloride Dihydrochloride | Cl.Cl.[Cl-].NC1=C(C=C(C=C1)N)CCN1C=[N+](C=C1)C | InChI=1S/C12H17N4.3ClH/c1-15-6-7-16(9-15)5-4-10-8-11(13)2-3-12(10)14;;;/h2-3,6-9H,4-5,13-14H2,1H3;3*1H/q+1;;;/p-1
